US08604061B2
To a stirred solution of lithium borohydride in THF (10.5 ml, 2 M solution) under an argon atmosphere was added dropwise chlorotrimethylsilane (5.34 ml). The resulting suspension was cooled to 0° C. and amino-(3-chlorophenyl)-acetic acid (2.0 g) was added portionwise. The ice bath was removed and stirring at r.t. was then continued for 16 h. The mixture was quenched by dropwise addition of methanol (15 ml) and then concentrated in vacuo. The residue was suspended in ethyl acetate and washed with 2 N aq NaOH. The phases were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated in vacuo to afford (RS)-2-amino-2-(3-chloro-phenyl)-ethanol (1.84 g, quant.) as a yellow viscous oil. MS (ISP): 174.2 ([{37Cl}M+H]+), 172.2 ([{35Cl}M+H]+).

reactant | lithium borohydride | [BH4-].[Li+]
reactant | chlorotrimethylsilane | 5.34 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | amino-(3-chlorophenyl)-acetic acid | 2.0 g | NC(C(=O)O)C1=CC(=CC=C1)Cl | C8H8ClNO2
solvent | THF | 2 M, 10.5 ml | C1CCOC1 | C4H8O
product | (RS)-2-amino-2-(3-chloro-phenyl)-ethanol | 1.84 g | NC(CO)C1=CC(=CC=C1)Cl | C8H10ClNO
